US05185370
3-[(5-Nitrothienyl)methylene]-2,4-pentanedione
The procedure described in Example 12 was repeated by using 2.59 g of 5-nitro-2-thiophenecarboxaldehyde diacetate, 1.5 g of 2,4-pentanedione. Yield 0.5 g, yellow viscous oil.

reactant | 5-nitro-2-thiophenecarboxaldehyde diacetate | 2.59 g | C(C)(=O)O.C(C)(=O)O.[N+](=O)([O-])C1=CC=C(S1)C=O
reactant | 2,4-pentanedione | 1.5 g | CC(CC(C)=O)=O | C5H8O2
product | 3-[(5-Nitrothienyl)methylene]-2,4-pentanedione | [N+](=O)([O-])C1=CC=C(S1)C=C(C(C)=O)C(C)=O | C10H9NO4S
